US06562978B1
N-[3-(4-Benzyl-1-piperidinyl)propyl]benzylamine
To a solution of 4-benzylpiperidine (10.0 g, 57 mmol) and DBU (85 μl, 0.57 mmol) in THF (10 ml) was dropwise added a solution of acrolein (90%, 3.2 g, 57 mmol) in THF (2 ml) at −20° C. with stirring over a period of 10 minutes. The mixture was stirred for 1 hour while the temperature of the mixture was elevating from −20° C. to −10° C. To the mixture were added benzylamine (6.1 g, 57 mmol), sodium triacetoxyborohydride (24.2 g, 114 mmol), successively, at −10° C., and the mixture was stirred 19 hours while the temperature was elevated to room temperature. To the mixture was added aqueous solution of 2N-sodium hydroxide (100 ml) under ice cooling, and the mixture was stirred for 30 minutes and extracted with diethyl ether (100 ml, 80 ml×2). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The concentrate was dissolved in 2-propanol (50 ml). To the solution was added 4N-hydrogen chloride in ethyl acetate (50 ml) with stirring, and the resulting precipitates were collected by filtration. The precipitates were washed with 2-propanol (20 ml×3), and dried under reduced pressure to give the titled compound as white crystals (6.5 g). To the white crystaline (2.0 g) obtained was added aqueous solution of 1N-sodium hydroxide (10 ml), and the resulting solution was extracted by ethyl acetate (10 ml, 8 ml×2). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give the titled compound (1.6 g) as a colorless oily substance.

reactant | 4-benzylpiperidine | 57 mmol, 10.0 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | acrolein | 57 mmol, 3.2 g | C(=O)C=C | C3H4O
reactant | benzylamine | 57 mmol, 6.1 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 114 mmol, 24.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | DBU | 0.57 mmol, 85 μl | C1CCC2=NCCCN2CC1 | C9H16N2
product | N-[3-(4-Benzyl-1-piperidinyl)propyl]benzylamine | 6.5 g | C(C1=CC=CC=C1)C1CCN(CC1)CCCNCC1=CC=CC=C1 | C22H30N2
